### PR TITLE
Apartness for real numbers

### PR DESCRIPTION
**Pull request by lowasser**
Apartness from 0, for example, implies a real is multiplicatively invertible.

### CODE REVIEW

**Comment by lowasser** [comment]
Forgot this depended on #1288.

**Comment by lowasser** [comment]
Reopening now that the dependency is merged.

File: src/real-numbers/apartness-real-numbers.lagda.md [hunk 1]
```diff
@@ -0,0 +1,95 @@
...
+  (x y : ℝ l)
+  where
+
+  nonequal-apart-ℝ : apart-ℝ x y → x ≠ y
+  nonequal-apart-ℝ apart x=y =
+    elim-disjunction
+      ( empty-Prop)
+      ( λ x<y → irreflexive-le-ℝ x (tr (le-ℝ x) (inv x=y) x<y))
+      ( λ y<x → irreflexive-le-ℝ y (tr (le-ℝ y) x=y y<x))
+      ( apart)
```
Comment (fredrik-bakke) [inline src/real-numbers/apartness-real-numbers.lagda.md:63]: This is a general result about apartness relations and should be added to `foundation.apartness-relations`, which this file should depend on.

File: src/real-numbers/apartness-real-numbers.lagda.md [hunk 2]
```diff
@@ -0,0 +1,95 @@
...
+```
+
+### If LEM, inequality implies apartness
```
Comment (fredrik-bakke) [inline src/real-numbers/apartness-real-numbers.lagda.md:66]: Inequality is a different concept from negated equality/nonequality.

```suggestion
### Assuming the law of excluded middle, nonequal real numbers are apart
```

**Comment by fredrik-bakke** [comment]
I'm marking this PR as a draft until the work has been integrated with our infrastructure for apartness relations

**Comment by lowasser** [comment]
I hadn't noticed that was a thing.  Oops.  Let me do that.

File: src/real-numbers/apartness-real-numbers.lagda.md (hunk 1 above)
Comment (lowasser) [reply src/real-numbers/apartness-real-numbers.lagda.md:63]: I'm assuming this implies I need to add large apartness relations.

Comment (fredrik-bakke) [reply src/real-numbers/apartness-real-numbers.lagda.md:63]: That would be great :)))

I have some additions I wrote for apartness relations in an unmerged branch. It might be helpful to start from that. It's in the logic-compactness branch. I'll find a link later.

Comment (lowasser) [reply src/real-numbers/apartness-real-numbers.lagda.md]: I'd already started, unfortunately.

Comment (fredrik-bakke) [reply src/real-numbers/apartness-real-numbers.lagda.md]: okay, no worries

File: src/foundation/large-apartness-relations.lagda.md [hunk 3]
```diff
@@ -0,0 +1,77 @@
...
+open import foundation.negation
+open import foundation.propositions
+open import foundation.universe-levels
+```
+
+</details>
+
+## Idea
+
+A **large apartness relation** on a family of types indexed by universe levels
```
Comment (fredrik-bakke) [inline src/foundation/large-apartness-relations.lagda.md:23]:
```suggestion
A {{#concept "large apartness relation" Agda=Large-Apartness-Relation}} on a family of types indexed by universe levels
```

File: src/foundation/large-apartness-relations.lagda.md
Comment (fredrik-bakke) [inline src/foundation/large-apartness-relations.lagda.md:1]: I can't find the result `(x # y) => (x ≠ y)` here or anywhere anymore. Didn't you want to have this result for reals? Then it should be added to this file.

File: src/foundation/large-binary-relations.lagda.md [hunk 4]
```diff
@@ -125,6 +128,17 @@ module _
...
+  is-antireflexive-Large-Relation : UUω
+  is-antireflexive-Large-Relation =
+    {l : Level} → (a : A l) → ¬ (R a a)
+
+  is-cotransitive-Large-Relation : UUω
+  is-cotransitive-Large-Relation =
+    {l1 l2 l3 : Level} →
+    (a : A l1) (b : A l2) (c : A l3) →
+    R a b →
+    R a c + R b c
```
Comment (fredrik-bakke) [inline src/foundation/large-binary-relations.lagda.md:140]: Cotransitivity should be defined with propositional truncation. You can call this `cases-is-cotransitive-Large-Relation` if you want to keep it.

File: src/foundation/large-binary-relations.lagda.md [hunk 5]
```diff
@@ -146,6 +160,17 @@ module _
...
+  is-antireflexive-Large-Relation-Prop : UUω
+  is-antireflexive-Large-Relation-Prop =
+    is-antireflexive-Large-Relation A (large-relation-Large-Relation-Prop A R)
+
+  is-cotransitive-Large-Relation-Prop : UUω
+  is-cotransitive-Large-Relation-Prop =
+    {l1 l2 l3 : Level} →
+    (a : A l1) (b : A l2) (c : A l3) →
+    type-Prop (R a b) →
+    type-Prop (R a c ∨ R c b)
```
Comment (fredrik-bakke) [inline src/foundation/large-binary-relations.lagda.md:173]: For readability

```suggestion
    type-Prop ((R a c) ∨ (R c b))
```

File: src/real-numbers/apartness-real-numbers.lagda.md [hunk 6]
```diff
@@ -0,0 +1,98 @@
...
+
+open import real-numbers.dedekind-real-numbers
+open import real-numbers.strict-inequality-real-numbers
+```
+
+</details>
+
+## Idea
+
+Two real numbers are [apart](foundation.large-apartness-relations.md) if one is
```
Comment (fredrik-bakke) [inline src/real-numbers/apartness-real-numbers.lagda.md:28]:
```suggestion
Two [real numbers](real-numbers.dedekind-real-numbers.md) are [apart](foundation.large-apartness-relations.md) if one is
```

File: src/real-numbers/apartness-real-numbers.lagda.md [hunk 7]
```diff
@@ -0,0 +1,98 @@
...
+strictly less than the other.
```
Comment (fredrik-bakke) [inline src/real-numbers/apartness-real-numbers.lagda.md:29]:
```suggestion
[strictly less](real-numbers.strict-inequality-real-numbers.md) than the other.
```

File: src/real-numbers/apartness-real-numbers.lagda.md [hunk 8]
```diff
@@ -0,0 +1,98 @@
...
+        ( inl-disjunction ∘ inl-disjunction)
+        ( inr-disjunction ∘ inl-disjunction)
+        ( cotransitive-le-ℝ-Prop x y z x<y))
+    ( λ y<x →
+      elim-disjunction
+        ( apart-ℝ-Prop x z ∨ apart-ℝ-Prop z y)
+        ( inr-disjunction ∘ inr-disjunction)
+        ( inl-disjunction ∘ inr-disjunction)
+        ( cotransitive-le-ℝ-Prop y x z y<x))
+    x#y
```
Comment (fredrik-bakke) [inline src/real-numbers/apartness-real-numbers.lagda.md:83]:
```suggestion
cotransitive-apart-ℝ x y z =
  elim-disjunction
    ( apart-ℝ-Prop x z ∨ apart-ℝ-Prop z y)
    ( λ x<y →
      elim-disjunction
        ( apart-ℝ-Prop x z ∨ apart-ℝ-Prop z y)
        ( inl-disjunction ∘ inl-disjunction)
        ( inr-disjunction ∘ inl-disjunction)
        ( cotransitive-le-ℝ-Prop x y z x<y))
    ( λ y<x →
      elim-disjunction
        ( apart-ℝ-Prop x z ∨ apart-ℝ-Prop z y)
        ( inr-disjunction ∘ inr-disjunction)
        ( inl-disjunction ∘ inr-disjunction)
        ( cotransitive-le-ℝ-Prop y x z y<x))
```

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 9]
```diff
@@ -377,6 +372,25 @@ module _
           ( forward-implication (is-rounded-lower-cut-ℝ y q) q∈ly))
 ```
 
+### Strict inequality on the real numbers is cotransitive
+
+```agda
+cotransitive-le-ℝ-Prop : is-cotransitive-Large-Relation-Prop ℝ le-ℝ-Prop
+cotransitive-le-ℝ-Prop x y z =
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:379]:
```suggestion
cotransitive-le-ℝ : is-cotransitive-Large-Relation-Prop ℝ le-ℝ-Prop
cotransitive-le-ℝ x y z =
```

**Review by fredrik-bakke — APPROVED** [review]
Very nice PR!

File: src/foundation/large-binary-relations.lagda.md (hunk 4 above)
Comment (lowasser) [reply src/foundation/large-binary-relations.lagda.md:140]: Deleted, since it isn't for propositions

File: src/foundation/large-apartness-relations.lagda.md [hunk 10]
```diff
@@ -0,0 +1,81 @@
...
+open import foundation.negation
+open import foundation.propositions
+open import foundation.universe-levels
+```
+
+</details>
+
+## Idea
+
+A {{#concept "large apartness relation" Agda=Large-Apartness-Relation}} on a
```
Comment (fredrik-bakke) [inline src/foundation/large-apartness-relations.lagda.md:23]:
```suggestion
A {{#concept "large apartness relation" WD="apartness relation" WDID=Q4779193 Agda=Large-Apartness-Relation}} on a
```

File: src/real-numbers/apartness-real-numbers.lagda.md [hunk 11]
```diff
@@ -0,0 +1,118 @@
...
+  (x y : ℝ l)
+  where
+
+  nonequal-apart-ℝ : apart-ℝ x y → x ≠ y
+  nonequal-apart-ℝ x#y x=y =
+    elim-disjunction
+      ( empty-Prop)
+      ( λ x<y → irreflexive-le-ℝ x (tr (le-ℝ x) (inv x=y) x<y))
+      ( λ y<x → irreflexive-le-ℝ y (tr (le-ℝ y) x=y y<x))
+      ( x#y)
```
Comment (fredrik-bakke) [inline src/real-numbers/apartness-real-numbers.lagda.md:117]: This is still a property of arbitrary apartness relations, right? I'm confused why you're not showing it for an arbitrary large apartness relation

Comment (fredrik-bakke) [reply src/real-numbers/apartness-real-numbers.lagda.md:117]: its a property of antireflexive relations more precisely
